US04960798
To a solution of 1 g (3.3 mmoles) of 2-iodo-5-methoxy-N,N-dimethylbenzeneethanamine and 0.33 g (3.3 mmoles) phenylacetylene in 18 ml dry triethylamine were added, under nitrogen, 23.1 mg bis(triphenylphosphine) palladium (II) chloride and 11.4 mg Copper (I) iodide. The reaction mixture was stirred overnight. The yield by glc using internal standard of 5-methoxy-N,N-dimethyl-2-(phenylethynyl)benzeneethanamine was 91%.

reactant | 2-iodo-5-methoxy-N,N-dimethylbenzeneethanamine | 3.3 mmoles, 1 g | IC1=C(C=C(C=C1)OC)CCN(C)C | C11H16INO
reactant | phenylacetylene | 3.3 mmoles, 0.33 g | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine) palladium (II) chloride | 23.1 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | Copper (I) iodide | 11.4 mg | [Cu]I
product | 5-methoxy-N,N-dimethyl-2-(phenylethynyl)benzeneethanamine | COC=1C=CC(=C(C1)CCN(C)C)C#CC1=CC=CC=C1 | C19H21NO
